US05834506
3-(2-tert-Butyl-4-hydroxy-5-methyl-phenylsulfanyl)-4-hydroxy-6-[4-(2-hydroxy-ethoxy)-phenyl]-6-phenethyl-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 9 using 6-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenyl }-4-hydroxy-6-phenethyl-5,6-dihydro-pyran-2-one (prepared in Example SS; 0.200 g, 0.43 mmol), toluene-4-thiosulfonic acid S-[2-tert-butyl-4-(tert-butyl-dimethyl-silanyloxy)-5-methyl-phenyl] ester prepared in Example JJJ (0.26 g, 0.56 mmol), K2CO3 (0.24 g, 1.7 mmol), and DMF (2.0 mL). After consumption of starting material, the mixture was diluted with MeOH and treated with 10 drops of concentrated HCl. The mixture was stirred for 20 minutes and then diluted with 15 mL of H2O and extracted with CH2Cl2. The organic layers were combined, dried (Na2SO4) and concentrated. The product was purified by column chromatography (CH2Cl2 to 4% MeOH in CH2Cl2) to provide a solid, m.p. 168°-170° C. (dec.). 1H NMR (DMSO-d6) δ 1.41 (s, 9 H), 1.63 (s, 3 H), 2.29-2.16 (m, 4 H), 3.32 (d, 1 H, partially obscured by H2O), 3.38 (d, 1 H, partially obscured by H2O), 3.98 (t, 2 H), 3.72 (br d, 2 H), 4.88 (br s, 1 H), 6.07 (s, 1 H), 6.71 (s, 1 H), 6.83 (d, 2 H), 7.09 (d, 2 H), 7.17-7.13 (m, 1 H), 7.26-7.22 (m, 2 H), 7.31 (d, 2 H), 8.91 (s, 1 H).

reactant | 6-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenyl }-4-hydroxy-6-phenethyl-5,6-dihydro-pyran-2-one | 0.43 mmol, 0.200 g | C(C)(C)(C)[Si](OCCOC1=CC=C(C=C1)C1(CC(=CC(O1)=O)O)CCC1=CC=CC=C1)(C)C | C27H36O5Si
reactant | toluene-4-thiosulfonic acid S-[2-tert-butyl-4-(tert-butyl-dimethyl-silanyloxy)-5-methyl-phenyl] ester | C(C)(C)(C)C1=C(C=C(C(=C1)O[Si](C)(C)C(C)(C)C)C)SS(=O)(=O)C1=CC=C(C=C1)C | C24H36O3S2Si
reactant | K2CO3 | 1.7 mmol, 0.24 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-(2-tert-Butyl-4-hydroxy-5-methyl-phenylsulfanyl)-4-hydroxy-6-[4-(2-hydroxy-ethoxy)-phenyl]-6-phenethyl-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)O)C)SC=1C(OC(CC1O)(CCC1=CC=CC=C1)C1=CC=C(C=C1)OCCO)=O | C32H36O6S
